US08247421B2
Step 6: 2-((R)-1-hydroxy-3-methylbutan-2-ylamino)-4-(5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
A mixture of 4-(5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(methylsulfonyl)pyrimidine-5-carbonitrile (120 mg, 0.257 mmol), (R)-(−)-2-amino-3-methyl-1-butanol (57 □l, 0.515 mmol) and diisopropylethylamine (90 □l, 0.515 mmol) in THF (4 mL) was heated at reflux for 1 hour. The reaction mixture was concentrated in vacuo and the residue was purified on silica gel by flash column chromatography to give the title compound as a colourless glassy solid (97 mg, 77% yield).

reactant | 4-(5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | 0.257 mmol, 120 mg | CC=1C=C2C(=NC1)N(C=C2C2=NC(=NC=C2C#N)S(=O)(=O)C)S(=O)(=O)C2=CC=C(C)C=C2 | C21H17N5O4S2
reactant | (R)-(−)-2-amino-3-methyl-1-butanol | 0.515 mmol | N[C@@H](CO)C(C)C | C5H13NO
reactant | diisopropylethylamine | 0.515 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-((R)-1-hydroxy-3-methylbutan-2-ylamino)-4-(5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 97 mg, 77% yield | OC[C@@H](C(C)C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C25H26N6O3S
